US06562807B2
Dry methanol (5.3 mL) was cooled to −15° C. on an ice bath and thionyl chloride (2.5 mL) was added dropwise maintaining the temperature below 5° C. To this cold solution was added (RS)-3-amino-2-fluoropropionic acid (0.27 g, 2.52 mmol) and stirring was continued until a homogeneous solution was obtained. The ice bath was removed and stirring was continued for 17 hours at room temperature. The solution was concentrated in vacuo and further co-evaporated three times with dry methanol. The residue was filtered off, washed with DCM and dried to afford 0.13 g (33%) of 3-amino-2-fluoropropionic acid methyl ester hydrochloride as a solid.

reactant | thionyl chloride | 2.5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | (RS)-3-amino-2-fluoropropionic acid | 2.52 mmol, 0.27 g | NCC(C(=O)O)F | C3H6FNO2
reactant | methanol | 5.3 mL | CO | CH4O
product | 3-amino-2-fluoropropionic acid methyl ester hydrochloride | 0.13 g, 33% | Cl.COC(C(CN)F)=O | InChI=1S/C4H8FNO2.ClH/c1-8-4(7)3(5)2-6;/h3H,2,6H2,1H3;1H
